US05641430
Preparation of trans-4-(4-trifluoromethylphenyloxymethyl)-1-(5-methoxypentyl)-4-silacyclohexane
The general procedure of Example 9 was repeated using 4-trifluoromethylphenol and 4-bromomethyl-1-(5-methoxypentyl)-4-phenyl-4-silacyclohexane, thereby obtaining the intended compound.

reactant | 4-trifluoromethylphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | 4-bromomethyl-1-(5-methoxypentyl)-4-phenyl-4-silacyclohexane | BrC[Si]1(CCC(CC1)CCCCCOC)C1=CC=CC=C1 | C18H29BrOSi
product | trans-4-(4-trifluoromethylphenyloxymethyl)-1-(5-methoxypentyl)-4-silacyclohexane | FC(C1=CC=C(C=C1)OC[Si@@H]1CC[C@H](CC1)CCCCCOC)(F)F | C19H29F3O2Si
